US04851413
To a solution of 1.0 g (3.36 mmol) of ethyl 4-[hydroxy-(3-pyridyl)]methyl-α-methylcinnamate in 10 ml of dichloroethane, 514 mg (3.38 mmol) of 2,3,5-trimethylhydroquinone and 0.28 ml (5.26 mmol) of concentrated sulfuric acid were added and refluxed by heating for 2 hours. The reaction mixture was made weakly alkaline with a saturated solution of sodium hydrogen carbonate, and the organic phase was separated while the aqueous phase was extracted with chloroform and the extract was combined with the organic phase. The organic phase was oxidized with ferric chloride, washed with water, dried, and concentrated. The residue was purified with silica gel column chromatography (isopropyl ether-acetic ester (1:1)), to give 1.2 g (yield 82.7%) of ethyl 4-[3,5,6-trimethyl-1,4-benzoquinon-2-yl(3-pyridyl)methyl]-α-methylcinnamate. The physical data are shown in Table 1.

reactant | ethyl 4-[hydroxy-(3-pyridyl)]methyl-α-methylcinnamate | 3.36 mmol, 1.0 g | OC1=NC=CC=C1CC1=CC=C(C=C(C(=O)OCC)C)C=C1 | C18H19NO3
reactant | 2,3,5-trimethylhydroquinone | 3.38 mmol, 514 mg | CC1=C(O)C=C(C(=C1C)O)C | C9H12O2
reactant | sulfuric acid | 5.26 mmol, 0.28 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloroethane | 10 ml | ClC(C)Cl | C2H4Cl2
product | ethyl 4-[3,5,6-trimethyl-1,4-benzoquinon-2-yl(3-pyridyl)methyl]-α-methylcinnamate | 1.2 g, yield 82.7% | CC1=C(C(C(=C(C1=O)C)C)=O)C(C1=CC=C(C=C(C(=O)OCC)C)C=C1)C=1C=NC=CC1 | C27H27NO4
